US07816522B2
After dissolving 9.17 g of (4-fluoro-3-methoxyphenyl)methanol [CAS No. 128495-45-4] in 100 ml of DMF, 5 g of imidazole and 17 g of t-butyl-chlorodiphenylsilane were added and the mixture was stirred overnight at room temperature. Next, 1N hydrochloric acid was added to the reaction mixture, and extraction was performed with ethyl acetate. The organic layer was dried over anhydrous magnesium sulfate. The desiccating agent was filtered off and the filtrate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate-heptane) to give t-butyl-(4-fluoro-3-methoxybenzyloxy)diphenylsilane as an oil.

reactant | (4-fluoro-3-methoxyphenyl)methanol | 9.17 g | FC1=C(C=C(C=C1)CO)OC | C8H9FO2
reactant | imidazole | 5 g | N1C=NC=C1 | C3H4N2
reactant | t-butyl-chlorodiphenylsilane | 17 g | C(C)(C)(C)[Si](C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C16H19ClSi
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | t-butyl-(4-fluoro-3-methoxybenzyloxy)diphenylsilane | C(C)(C)(C)[Si](C1=CC=CC=C1)(C1=CC=CC=C1)OCC1=CC(=C(C=C1)F)OC | C24H27FO2Si
